US08791123B2
Step D: Preparation of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-(2-methyl-1-(methylsulfonamido)propan-2-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide
(R)—N-(1-amino-2-methylpropan-2-yl)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide hydrochloride (24.0 mg, 0.0532 mmol) was dissolved in DCM (0.53 mL) and triethylamine (15.2 μL, 0.109 mmol) followed by MeSO2Cl (4.34 μL, 0.0559 mmol) were added sequentially. The mixture was stirred at ambient temperature for 2 hours and was diluted with EtOAc. The mixture was washed with water and brine and was dried with MgSO4. The solution was filtered and concentrated to afford the title compound (8.0 mg, 30% yield) as a white solid. MS (apci) m/z=493.1 (M+H).

reactant | (R)—N-(1-amino-2-methylpropan-2-yl)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide hydrochloride | 0.0532 mmol, 24.0 mg | Cl.NCC(C)(C)NC(=O)C=1C=NN2C1N=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)F
reactant | triethylamine | 0.109 mmol, 15.2 μL | C(C)N(CC)CC | C6H15N
reactant | MeSO2Cl | 0.0559 mmol, 4.34 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 0.53 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-(2-methyl-1-(methylsulfonamido)propan-2-yl)pyrazolo[1,5-a]pyrimidine-3-carboxamide | 8.0 mg, 30% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)NC(CNS(=O)(=O)C)(C)C | C22H26F2N6O3S
